US05889026
To a -78° C. cold solution of 4-allylanisol (14.6 ml, 95 mmol) in CH2Cl2 (300 ml) BBr3 (100 ml, 0.1 mol, 1 mol/l in CH2Cl2) was added dropwise. The reaction mixture was then allowed to warm up to room temperature. After 1 hour, the reaction mixture was cooled to 0° C. and quenched slowly with H2O (90 ml). The resulting aqueous phase was extracted with CH2Cl2 (2×100 ml). The combined organic phases were dried over Na2SO4 and concentrated. The residue was chromatographed over silica gel (hexane-ethyl acetate 9:1) to provide 4-allylphenol (11.3 g, 89%) as a purple oil, MS: m/e=134 (M+).

reactant | 4-allylanisol | 95 mmol, 14.6 ml | C(C=C)C1=CC=C(C=C1)OC | C10H12O
reactant | CH2Cl2 | 0.1 mol, 1 mol/l, 300 ml | C(Cl)Cl | CH2Cl2
product | 4-allylphenol | 11.3 g, 89% | C(C=C)C1=CC=C(C=C1)O | C9H10O
